US06472412B1
A solution of potassium hydroxide (168 mg) in water (1 mL) is added to a solution of methyl 5-cyclopentyloxy-6-methoxynicotinoate (250 mg) in methanol (3 mL) and the mixture stirred for 4 hours then allowed to stand at room temperature overnight. The mixture is concentrated, the residue dissolved in water and the mixture adjusted to pH 6 by the addition of concentrated hydrochloric acid. The mixture is extracted with ethyl acetate, the extracts dried (MgSO4) and concentrated to give a cream solid. The solid is dried at 100° C. to give 5-cyclopentyloxy-6-methoxynicotinic acid (140 mg), m.p. 191-2° C. [Elemental analysis: C, 60.7; H, 6.43; N, 5.78%. calculated: C, 60.75; H, 6.37; N, 5.90%.].

reactant | potassium hydroxide | 168 mg | [OH-].[K+]
reactant | methyl 5-cyclopentyloxy-6-methoxynicotinoate | 250 mg | C1(CCCC1)OC=1C(=NC=C(C(=O)OC)C1)OC | C13H17NO4
solvent | water | 1 mL | O | H2O
solvent | methanol | 3 mL | CO | CH4O
product | 5-cyclopentyloxy-6-methoxynicotinic acid | 140 mg | C1(CCCC1)OC=1C(=NC=C(C(=O)O)C1)OC | C12H15NO4
